US07777047B2
8-benzylhexahydropyrazino[2,1-c][1,4]oxazin-4(3H)-one
To a mixture of (4-benzylpiperazin-2-yl)methanol (6.4 g, 30 mmol) prepared according to J. Med. Chem. 1993, 36, 2075-2083, water (100 ml) and tetrahydrofuran (100 ml) were successively added potassium carbonate (8.3 g, 60 mmol) with chloroacetyl chloride (3.6 mL, 45 mmol), and the mixture was stirred at room temperature for 12 hr. The reaction mixture was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in ethanol (100 ml), potassium hydroxide (2 g) was added, and the mixture was stirred at 50° C. for 3 hr. The reaction mixture was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (2.6 g, yield 35%) as a yellow oil. MS 247 (M+1).

reactant | (4-benzylpiperazin-2-yl)methanol | 30 mmol, 6.4 g | C(C1=CC=CC=C1)N1CC(NCC1)CO | C12H18N2O
reactant | water | 100 ml | O | H2O
reactant | potassium carbonate | 60 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetyl chloride | 45 mmol, 3.6 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 8-benzylhexahydropyrazino[2,1-c][1,4]oxazin-4(3H)-one | 2.6 g, yield 35% | C(C1=CC=CC=C1)N1CC2COCC(N2CC1)=O | C14H18N2O2
